US06964966B2
Di-t-butyldicarbonate (430 g, 1.97 mol) was added to a stirred solution of 3,3-dimethyl-4-piperidone (262 g, 2.06 mol) and triethylamine (175 g, 1.73 mol) in 600 ml dichloromethane at 0-10° C. over a period of 1 hour. Cooling was removed and the reaction mixture was stirred at 20-30° C. for 30 min. The reaction mixture was concentrated to dryness and the residue was triturated with hexane (250 ml) and filtered to give 1-t-butyloxycarbonyl-3,3-dimethyl-4-piperidone (352 g) in 76% yield.

reactant | Di-t-butyldicarbonate | 1.97 mol, 430 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3,3-dimethyl-4-piperidone | 2.06 mol, 262 g | CC1(CNCCC1=O)C | C7H13NO
reactant | triethylamine | 1.73 mol, 175 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 1-t-butyloxycarbonyl-3,3-dimethyl-4-piperidone | 352 g, 76% yield | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(C)C | C12H21NO3
